US04294986
Preparation of 2-chloro-4-aminophenyl phenethyl sulfide, hydrochloride
Dry tetrahydrofuran (THF; 20 ml) is added to a mixture of sodium borohydride (1.89 g; 0.05 mol) and sulfur (4.8 g; 0.15 mol). Vigorous gas evolution commences and the reaction mixture is cooled in a cold water bath. After the gas evolution ceases, a solution of 2-chloro-4-nitrophenyl phenethyl sulfide (14.65 g; 0.05 mol) in dry THF (50 ml) is added to the above mixture. The reaction mixture is stirred for 15 hours at room temperature and then at 80° C. for 2 hours. It is then cooled down, 20% sodium hydroxide (30 ml) added, and the mixture extracted with ether. The extract is washed with water, saturated brine and dried over magnesium sulfate. Ethanolic hydrogen chloride solution is added dropwise to the ethereal solution to precipitate the title product. The product is isolated by filtration, washed with ether and dried to afford 10.4 g (69%), m.p. 213°-214° C. (d). A sample is prepared for analysis by recrystallization from ethanol-ethyl acetate m.p. 213°-214° C. (d).

reactant | sodium borohydride | 0.05 mol, 1.89 g | [BH4-].[Na+]
reactant | sulfur | 0.15 mol, 4.8 g | [S] | S
reactant | 2-chloro-4-nitrophenyl phenethyl sulfide | 0.05 mol, 14.65 g | C(CC1=CC=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C14H12ClNO2S
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
product | 2-chloro-4-aminophenyl phenethyl sulfide, hydrochloride | Cl.C(CC1=CC=CC=C1)SC1=C(C=C(C=C1)N)Cl | InChI=1S/C14H14ClNS.ClH/c15-13-10-12(16)6-7-14(13)17-9-8-11-4-2-1-3-5-11;/h1-7,10H,8-9,16H2;1H
